US07504401B2
To a stirred solution of 3-bromo-5-iodo-aniline (0.60 g, 2.01 mmol) and pyridine (0.65 mL, 8.06 mmol) in CH2Cl2 (15 mL) at 0° C. was added methyl chloroformate (0.17 mL, 2.22 mmol). The reaction mixture was allowed to warm to room temperature and was stirred for 12 hours. The reaction mixture was washed with twice with 5 mL 1 M HCl and 5 mL brine. The organic layer was dried over Na2SO4 and concentrated to give 0.71 g (99%) of (3-bromo-5-iodo-phenyl)-carbamic acid methyl ester.

reactant | 3-bromo-5-iodo-aniline | 2.01 mmol, 0.60 g | BrC=1C=C(N)C=C(C1)I | C6H5BrIN
reactant | pyridine | 8.06 mmol, 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 2.22 mmol, 0.17 mL | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (3-bromo-5-iodo-phenyl)-carbamic acid methyl ester | 0.71 g, 99% | COC(NC1=CC(=CC(=C1)I)Br)=O | C8H7BrINO2
